US05817671
5-(N-[cyclopropanecarbonyl]amino)-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.062 mMol) 5-amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine and 0.006 mL (0.068 mMol) cyclopropanecarbonyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.062 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)CC | C14H18N4
reactant | cyclopropanecarbonyl chloride | 0.068 mMol, 0.006 mL | C1(CC1)C(=O)Cl | C4H5ClO
product | 5-(N-[cyclopropanecarbonyl]amino)-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | C1(CC1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)CC | C18H22N4O
